US08980875B2
In a 25 ml one-necked flask, there is dissolved 0.240 g (1.024 mmol) of 1-methyl-4-phenylimidazole, which was obtained according to W. Collibee et al., Tetrahedron Letters (1985), 62(6), 1595-96, in 7 ml of toluene and then 100 μl of methyl iodide are added. After 15 days of heating under reflux while adding 100 μl of methyl iodide every day, the reaction medium is concentrated under reduced pressure. The residue is taken up in 50 ml of diisopropyl ether. The precipitate formed is drained, washed twice with 5 ml of diisopropyl ether, and then dried under reduced pressure. 0.370 g (98%) of 1,3-dimethyl-4,5-diphenylimidazolium iodide is thus obtained in the form of a pale yellow solid whose characteristics are the following:

reactant | 1-methyl-4-phenylimidazole | 1.024 mmol, 0.240 g | CN1C=NC(=C1)C1=CC=CC=C1 | C10H10N2
reactant | methyl iodide | 100 μl | CI | CH3I
reactant | methyl iodide | 100 μl | CI | CH3I
reactant | toluene | 7 ml | C1(=CC=CC=C1)C | C7H8
product | 1,3-dimethyl-4,5-diphenylimidazolium iodide | 0.370 g, 98% | [I-].C[N+]1=CN(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)C | InChI=1S/C17H17N2.HI/c1-18-13-19(2)17(15-11-7-4-8-12-15)16(18)14-9-5-3-6-10-14;/h3-13H,1-2H3;1H/q+1;/p-1
